US04723006
119 Parts of 4-chloro-4-(2,2,2-trichloroethyl)-oxetan-2-one and 95.5 parts of guanidine hydrochloride were charged to a reaction flask and heated in an oil bath at 140° C. for 15 minutes. The solid dissolved and HCl gas was evolved. The oil bath temperature was raised to 160° C. and heating was continued for a further 45 minutes. The heat was removed and the reaction mass was stirred until cool and solidified. The solid was stirred with 250 parts of ethyl acetate and filtered. The filtrate was discarded and the solid dissolved in 1000 parts of hot water, treated with charcoal and filtered. The aqueous solution was cooled and neutralised by the addition of saturated sodium acetate solution. The precipitated solid was filtered and washed with water. This crude product was then dissolved in 550 parts of concentrated hydrochloric acid, diluted with 800 parts of water and stirred with 5 parts of charcoal for 20 minutes. The solution was filtered and the product precipitated by the addition of saturated sodium acetate solution to pH 6. The solid was filtered, washed with water and dried in a vacuum oven at 110° C. to give 2-amino-4-(2,2-dichloro-vinyl)-6-hydroxypyrimidine m.p. 245°-248° C. (decomposition).

reactant | 4-chloro-4-(2,2,2-trichloroethyl)-oxetan-2-one | ClC1(CC(O1)=O)CC(Cl)(Cl)Cl | C5H4Cl4O2
reactant | guanidine hydrochloride | Cl.NC(=N)N
reactant | HCl | Cl | ClH
product | 2-amino-4-(2,2-dichloro-vinyl)-6-hydroxypyrimidine | NC1=NC(=CC(=N1)C=C(Cl)Cl)O | C6H5Cl2N3O
